US05807873
Ethyl (E)-3-(4-t-butylaminosulfonylphenyl)-3-(4-fluorophenyl)-2-(2-hydroxyethyl)-2-propenoate (10 g), prepared in Example 59, is dissolved in 20 ml of ethanol, and a solution of 2 g of sodium hydroxide in 10 ml of water is added. The mixture is refluxed for 2 h. After evaporation to dryness, the residue is taken up with water, acidified with 1N hydrochloric acid and then extracted with dichloromethane. The organic phase is dried over magnesium sulphate and then evaporated under vacuum. The residue is added in portions to 500 ml of concentrated sulphuric acid. The mixture is stirred for 15 minutes at room temperature and then poured into iced water and the crystals formed are filtered off, washed with diethyl ether and then taken up with 100 ml of warm acetone. 50 ml of diethyl ether are added to the solution obtained and the crystals formed are filtered off and dried to give 6 g of (E)-3-[1-(4-aminosulphonylphenyl)-1-(4-fluorophenyl)methylidene]dihydrofuran-2-one in the form of crystals melting at 202° C.

reactant | Ethyl (E)-3-(4-t-butylaminosulfonylphenyl)-3-(4-fluorophenyl)-2-(2-hydroxyethyl)-2-propenoate | 10 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)OCC)\CCO)/C1=CC=C(C=C1)F | C23H28FNO5S
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | (E)-3-[1-(4-aminosulphonylphenyl)-1-(4-fluorophenyl)methylidene]dihydrofuran-2-one | 6 g | NS(=O)(=O)C1=CC=C(C=C1)\C(\C1=CC=C(C=C1)F)=C/1\C(OCC1)=O | C17H14FNO4S
